US07691877B2
Benzyl-(2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester
Benzyl bromide (2.33 ml) was added drop-wise to a stirred suspension of (2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (4.57 g) in acetonitrile (40 ml). The mixture was left to stir at RT under nitrogen for 16 h. The mixture was concentrated in vacuo then partitioned between EtOAc (50 ml) and water (50 ml). The layers were separated and the organics were washed with saturated NH4Cl (50 ml), water (50 ml) and brine (50 ml). The organics were dried (MgSO4) and evaporated to a yellow oil. This material was pre-absorbed onto silica then columned on Isco Companion on a silica column (330 g, Redisep) eluting with EtOAc:heptane, isocratic at 10:90 for 1 column volume (CV) then increasing the gradient from 10:90 to 30:70 over 6 CVs. The desired fractions were combined and evaporated to provide the title compound as a yellow oil (6.05 g).

reactant | Benzyl bromide | 2.33 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 4.57 g | C(C)OC(NC1=C(C(=NC(=C1)Cl)Cl)[N+](=O)[O-])=O | C8H7Cl2N3O4
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | Benzyl-(2,6-dichloro-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 6.05 g | C(C)OC(N(C1=C(C(=NC(=C1)Cl)Cl)[N+](=O)[O-])CC1=CC=CC=C1)=O | C15H13Cl2N3O4
